US08809371B2
A methanol (20 ml) solution containing 1-(5-nitropyridin-2-yl)pyrrolidin-2-one (31 mg) was prepared and subjected to a hydrogenation reaction (30° C.; 1 bar; flow rate: 1 ml/min; 10% Pd/C) using H-cube™. Then, the solvent was distilled away under reduced pressure, and a purple solid of 1-(5-aminopyridin-2-yl)pyrrolidin-2-one (29 mg) was thus obtained.

reactant | 1-(5-nitropyridin-2-yl)pyrrolidin-2-one | 31 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1C(CCC1)=O | C9H9N3O3
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 1-(5-aminopyridin-2-yl)pyrrolidin-2-one | 29 mg | NC=1C=CC(=NC1)N1C(CCC1)=O | C9H11N3O
